US04801598
N-t-butyl-3-ketobutanamide (0.29 g) was dissolved in saturated ethanolic ammonia (15 ml) and stirred overnight at room temperature. The solution was evaporated to yield N-t-butyl-3-aminocrotonamide which was used directly. The crude residue was dissolved in ethanol (8 ml), 2-chlorobenzaldehyde (0.28 g) and ethyl 4-[2-(2-methylbenzimidazol-1-yl)ethoxy]-3-ketobutanoate (0.61 g) were added. The mixture was heated at reflux overnight, cooled and the solvent removed under reduced pressure. The residue was chromatographed on silica eluting with 4% diethylamine in ethyl acetate. The fractions containing the product were combined and evaporated. The residue was re-chromatographed on silica eluting with 5% methanol in ethyl acetate. The fractions containing the product were combined and evaporated to yield the title compound (0.17 g, 15%). m.p. 157°-161° C. Found: C, 65.66; H, 6.68; N, 9.74. C31H37C1N4O4 requires C, 65.89; H, 6.60; N, 9.91%.

reactant | N-t-butyl-3-ketobutanamide | 0.29 g | C(C)(C)(C)NC(CC(C)=O)=O | C8H15NO2
reactant | ammonia | 15 ml | N | H3N
product | N-t-butyl-3-aminocrotonamide | C(C)(C)(C)NC(\C=C(\C)/N)=O | C8H16N2O
